US04818819
To a solution containing 0.12 ml of dry dimethylformamide and 0.14 ml of distilled phosphorus oxychloride in 20 ml of anhydrous methylene chloride are added 0.28 g of methyl 5-iodo-1,2-dihydro-3-pyridinecarboxylate in one portion. The mixture is stirred at room temperature under a nitrogen atmosphere for 28 hours. Workup as described in Procedure 1 yields 0.13 g (43%) of recrystallized methyl 2-chloro-5-iodo-3-pyridinecarboxylate.

reactant | dimethylformamide | 0.12 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.14 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl 5-iodo-1,2-dihydro-3-pyridinecarboxylate | 0.28 g | IC=1C=C(CNC1)C(=O)OC | C7H8INO2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-chloro-5-iodo-3-pyridinecarboxylate | 0.13 g, 43% | ClC1=NC=C(C=C1C(=O)OC)I | C7H5ClINO2
